US07148240B2
D. 2-Butyl-3-[4-[3-(dibutylamino)propoxy]benzoyl]-5-hydroxymethyl-1-benzofuran oxalate
1.68 g of 2-butyl-3-(4-hydroxybenzoyl)-5-hydroxymethyl-1-benzofuran, 1.18 g of 1-chloro-3-(dibutylamino)propane and 0.960 g of potassium carbonate are dissolved in 70 ml of methyl ethyl ketone. The mixture is brought to reflux for 6 hours, water is added and separation is carried out by settling. Extraction with ethyl acetate and washing with a saturated sodium chloride solution are carried out. Purification is subsequently carried out by chromatography on silica (eluent: 95/5 dichloromethane/methanol), which gives the desired compound in the free base form.

reactant | 2-butyl-3-(4-hydroxybenzoyl)-5-hydroxymethyl-1-benzofuran | 1.68 g | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=C(C=C2)CO | C20H20O4
reactant | 1-chloro-3-(dibutylamino)propane | 1.18 g | ClCCCN(CCCC)CCCC | C11H24ClN
reactant | potassium carbonate | 0.960 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methyl ethyl ketone | 70 ml | C(C)C(=O)C | C4H8O
product | 2-Butyl-3-[4-[3-(dibutylamino)propoxy]benzoyl]-5-hydroxymethyl-1-benzofuran oxalate | C(C(=O)O)(=O)O.C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN(CCCC)CCCC)=O)C=C(C=C2)CO | InChI=1S/C31H43NO4.C2H2O4/c1-4-7-11-29-30(27-22-24(23-33)12-17-28(27)36-29)31(34)25-13-15-26(16-14-25)35-21-10-20-32(18-8-5-2)19-9-6-3;3-1(4)2(5)6/h12-17,22,33H,4-11,18-21,23H2,1-3H3;(H,3,4)(H,5,6)
